US08022222B2
Ethyl 5-(2-(3-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4,6-dimethylnicotinate (0.50 g, 0.79 mmol) was dissolved in EtOH (10 mL). NaOH (1N in H2O, 2.0 ml, 2.0 mmol) was added. The reaction stirred at 60° C. for 3 hours. The solution was cooled and concentrated to give the hydrolyzed product as a yellow salt. This residue was re-dissolved in DMF (2 mL). N1,N1-dimethylethane-1,2-diamine (0.31 ml, 2.8 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.45 g, 2.4 mmol) and HOBT-H2O (0.36 g, 2.4 mmol) were added. The reaction stirred at 50° C. for 2 hours. The solution was cooled, diluted with water (15 mL), extracted with EtOAc, dried, and concentrated. Flash chromatography (DCM-15% MeOH/DCM/0.1-1% NH4OH) gave tert-butyl 4-(5-(4-(5-((2-(dimethylamino)ethyl)carbamoyl)-2,4-dimethylpyridin-3-yloxy)-5-bromopyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate (0.30 g, 56%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 1.45 (s, 9H), 1.70-1.77 (m, 2H), 1.95-1.99 (m, 2H), 2.25 (s, 3H), 2.29 (s, 6H), 2.39 (s, 3H), 2.56-2.62 (m, 2H), 2.85-2.89 (m 3H), 3.52-2.64 (m, 2H), 4.08-4.15 (m, 2H), 5.95 (s, 1H), 7.07 (s, 1H), 8.30 (s, 1H), 8.53 (s, 1H), 10.15 (s, 1H).

reactant | Ethyl 5-(2-(3-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4,6-dimethylnicotinate | 0.79 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C(=C1)OC=1C(=NC=C(C(=O)OCC)C1C)C)Br | C27H33BrN6O5S
reactant | NaOH | 2.0 mmol, 1N, 2.0 ml | [OH-].[Na+]
reactant | N1,N1-dimethylethane-1,2-diamine | 2.8 mmol, 0.31 ml | CN(CCN)C | C4H12N2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 2.4 mmol, 0.45 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT H2O | 2.4 mmol, 0.36 g | C=1C=CC2=C(C1)N=NN2O.O
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | tert-butyl 4-(5-(4-(5-((2-(dimethylamino)ethyl)carbamoyl)-2,4-dimethylpyridin-3-yloxy)-5-bromopyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate | 0.30 g, 56% | CN(CCNC(=O)C=1C(=C(C(=NC1)C)OC1=CC(=NC=C1Br)NC1=NC(=NS1)C1CCN(CC1)C(=O)OC(C)(C)C)C)C | C29H39BrN8O4S
